US07572908B2
2-[3-(4-Hydroxy-phenylsulfanyl)-propyl]-isoindole-1,3-dione (10.5 g) was dissolved in ethanol (450 ml) and treated with hydrazine monohydrate (17 ml) at 100° C. for 2 h in argon gas. Filtration and evaporation then crystallization from ethanol gave 4-(3-amino-propylsulfanyl)-phenol (4.2 g).

reactant | 2-[3-(4-Hydroxy-phenylsulfanyl)-propyl]-isoindole-1,3-dione | 10.5 g | OC1=CC=C(C=C1)SCCCN1C(C2=CC=CC=C2C1=O)=O | C17H15NO3S
reactant | hydrazine monohydrate | 17 ml | O.NN
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 4-(3-amino-propylsulfanyl)-phenol | 4.2 g | NCCCSC1=CC=C(C=C1)O | C9H13NOS
